### PR TITLE
feat(Topology): add path interiors and connectivity lemmas

### PR DESCRIPTION
**Pull request by Jun2M**
This PR is part of PR chain leading to definition of drawing of graph on topological space. This PR introduces preliminary unit interval/path results needed for the later PRs.

In particular, this PR
* Defines `Path.interior` as the image of the open parameter interval. 
* Proves that path ranges and nonempty open subintervals of the unit interval are path-connected
* Adds endpoint lemmas for analyzing path interiors.

Some of the lemmas in the PR chain was initially proven with codex then manually golfed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/PathConnected.lean [hunk 1]
```diff
@@ -134,3 +134,21 @@ theorem segment_image_Ioc {x y : ℝ} (h : x < y) : (Path.segment x y) '' Ioc 0
...
+
+namespace unitInterval
+
+/-- Every nonempty open subinterval of the unit interval is path-connected. -/
+lemma isPathConnected_Ioo {a b : I} (hab : a < b) : IsPathConnected (Ioo a b) := by
+  suffices Set.projIcc (0 : ℝ) 1 zero_le_one '' Ioo (a : ℝ) (b : ℝ) = Ioo a b by
+    exact this ▸ ((convex_Ioo (a : ℝ) (b : ℝ)).isPathConnected
+      (Set.nonempty_Ioo.2 (Subtype.coe_lt_coe.2 hab))).image continuous_projIcc
+  ext t
+  refine ⟨?_, fun ht ↦ ⟨(t : ℝ), ⟨Subtype.coe_lt_coe.2 ht.1, Subtype.coe_lt_coe.2 ht.2⟩, ?_⟩⟩
```
Comment (vlad902) [inline Mathlib/Analysis/Convex/PathConnected.lean]: Here and elsewhere, For iffs I would use `.mp` and `.mpr` instead of `.1`/`.2`

File: Mathlib/Analysis/Convex/PathConnected.lean [hunk 2]
```diff
@@ -134,3 +134,21 @@ theorem segment_image_Ioc {x y : ℝ} (h : x < y) : (Path.segment x y) '' Ioc 0
   convert! image_affine_Ioc (sub_pos_of_lt h) x 0 1 using 2 <;> ring
 
 end Real
+
+namespace unitInterval
+
+/-- Every nonempty open subinterval of the unit interval is path-connected. -/
+lemma isPathConnected_Ioo {a b : I} (hab : a < b) : IsPathConnected (Ioo a b) := by
+  suffices Set.projIcc (0 : ℝ) 1 zero_le_one '' Ioo (a : ℝ) (b : ℝ) = Ioo a b by
```
Comment (vlad902) [inline Mathlib/Analysis/Convex/PathConnected.lean]: An LLM golfed this entire proof down to
```lean4
  rw [Topology.IsInducing.subtypeVal.isPathConnected_iff, image_subtype_val_Ioo]
  exact (convex_Ioo _ _).isPathConnected (nonempty_Ioo.mpr hab)
```
